US08008298B2
2,2-Diethoxy-1-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one (0.027 mg, 0.06 mM) was dissolved in 3 ml dichloromethane and 0.3 gm silica gel was added followed by 0.03 ml 10% aqueous citric acid solution. After stirring overnight 0.03 ml trifluoroacetic acid was added and stirred again overnight. To the orange mixture was added aqueous sodium bicarbonate, the mixture filtered and the silica gel rinsed with a methanol/dichloromethane mixture (20/80). The rinses were concentrate and the oil purified on a preparative thin layer chromatography plate eluting with methanol/dichloromethane (4/96). The product was dissolved in acetonitrile to induce crystallization, stripped and dried overnight at 2 torr in a vacuum oven at 60° C. to give 1-[2-(3,4,5-Trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propane-1,2-dione. (M+H)+=356.

reactant | 2,2-Diethoxy-1-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | 0.06 mM, 0.027 mg | C(C)OC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)(C)OCC | C22H27N3O6
reactant | citric acid | 0.03 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | trifluoroacetic acid | 0.03 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 1-[2-(3,4,5-Trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propane-1,2-dione | COC=1C=C(C=C(C1OC)OC)C=1N=C2C(=NC1)NC=C2C(C(C)=O)=O | C18H17N3O5
